US08877752B2
2-bromo-5-nitro-phenol (25a):
BBr3 (8.58 mL of 1.0M solution, 8.6 mmol) was added to the DCM (10 mL) solution of 1-bromo-2-methoxy-4-nitrobenzene (1.0 g, 4.3 mmol) at 0° C. The reaction mixture was warmed to room temperature and stirred overnight. The mixture was quenched with water and extracted with ethyl acetate (3×20 mL). The combined extracts were dried and the crude was purified by flash column chromatography to get the desired compound as pale brown powder in 65% yield (600 mg).

reactant | BBr3 | 8.6 mmol, 1.0M, 8.58 mL | B(Br)(Br)Br | BBr3
reactant | 1-bromo-2-methoxy-4-nitrobenzene | 4.3 mmol, 1.0 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-5-nitro-phenol | 65% yield | BrC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4BrNO3
